US05534515
3a. 1-Benzyl-3-bromo-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine
A solution of 180 μl (3.5 mmol) of bromine in 7 ml of anhydrous dichloromethane is added dropwise at 0° C. to a solution of 910 mg (2.6 mmol) of 1-benzyl-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine in 15 ml of anhydrous dichloromethane in the course of 30 min. The solution is kept at 0° C. for a further 1 h, then treated with 50 ml of ice-water and extracted. The organic phase is separated off, washed with 3×25 ml of water, dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel (eluent: ethyl acetate). The fractions of Rf=0.6 are concentrated and crystallized from diisopropyl ether/cyclohexane. 880 mg (79%) of the title compound are isolated. M.p.: 128°-130° C.

reactant | bromine | 3.5 mmol, 180 μl | BrBr | Br2
reactant | 1-benzyl-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine | 2.6 mmol, 910 mg | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C | C21H18FN3O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-Benzyl-3-bromo-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine | 880 mg, 79% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)Br)C | C21H17BrFN3O
